US09120812B2
A mixture of 350 mg (1.60 mmol) of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenylamine and 1.35 ml (9.59 mmol) of triethylamine in 10 ml of DCM is added, under nitrogen, to a solution of 474.07 mg (1.60 mmol) of triphosgene in 30 ml of DCM. The mixture is stirred for 30 minutes at room temperature, followed by addition of 1 g (7.99 mmol) of 6-methoxypyrazin-2-amine. The resulting mixture is stirred for 2 hours at room temperature. Water is added and the product is extracted with DCM. The solution is dried over MgSO4 and then filtered. The filtrate is evaporated under reduced pressure and the residue is then chromatographed on silica gel, eluting with a DCM/MeOH mixture from (100/0 v/v) up to (96/4 v/v). The solvent is evaporated off under reduced pressure. The residue is taken up in ethyl acetate and washed three times with 1N hydrochloric acid solution and then with saturated NaCl solution. The resulting solution is dried over MgSO4. 167 mg of 1-(6-methoxypyrazin-2-yl)-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]urea are obtained.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenylamine | 1.60 mmol, 350 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | triethylamine | 9.59 mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 1.60 mmol, 474.07 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 6-methoxypyrazin-2-amine | 7.99 mmol, 1 g | COC1=CN=CC(=N1)N | C5H7N3O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 1-(6-methoxypyrazin-2-yl)-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]urea | 167 mg | COC1=CN=CC(=N1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H23BN4O4
